US08710049B2
Methyl 4-((S)-3-((1R,2R)-2-(benzyloxycarbonylamino)cyclohexylamino) piperidin-1-yl)benzoate was synthesized using methyl 4-((S)-3-((1R,2R)-2-aminocyclohexylamino)piperidin-1-yl)benzoate (98 mg, 0.296 mmol) and benzyl 2,5-dioxopyrrolidin-1-yl carbonate (73.7 mg, 0.296 mmol) according to General Procedure H to give 38 mg (20% yield) of yellow solid. Anal. Calcd. for C27H35N3O4 m/z 465.5, found: 466.1 (M+H)+; 1H NMR (400 MHz, CD3OD) δ ppm 7.88 (d, J=9.0 Hz, 2H), 7.30-7.18 (m, 3H), 7.16-7.09 (m, 2H), 7.05 (d, J=8.9 Hz, 2H), 4.93 (s, 2H), 3.84 (s, 3H), 3.72-3.47 (m, 3H), 3.47-3.11 (m, 4H), 2.29 (d, J=13.4 Hz, 1H), 2.12-1.99 (m, 2H), 1.96-1.77 (m, 5H), 1.61-1.29 (m, 4H).

reactant | methyl 4-((S)-3-((1R,2R)-2-aminocyclohexylamino)piperidin-1-yl)benzoate | 0.296 mmol, 98 mg | N[C@H]1[C@@H](CCCC1)N[C@@H]1CN(CCC1)C1=CC=C(C(=O)OC)C=C1 | C19H29N3O2
reactant | benzyl 2,5-dioxopyrrolidin-1-yl carbonate | 0.296 mmol, 73.7 mg | C(OCC1=CC=CC=C1)(ON1C(CCC1=O)=O)=O | C12H11NO5
product | Methyl 4-((S)-3-((1R,2R)-2-(benzyloxycarbonylamino)cyclohexylamino) piperidin-1-yl)benzoate | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@@H](CCCC1)N[C@@H]1CN(CCC1)C1=CC=C(C(=O)OC)C=C1 | C27H35N3O4
